US05594138
2,5-Bis(p-bromophenyl) furan
A literature procedure as known in the art for preparation of trans-di-p-bromobenzoylethylene from bromobenzene and fumaryl chloride was employed. J. B. Conant and R. E. Lutz, J. Am. Chem. Soc. 47, 881 (1925). The ethylene compound was reduced with Zn-HOAc to prepare 1,4-di-p-bromophenyl-1,4-butanedione. E. Campaigne and W. O. Foye, J. Org. Chem. 17, 1405 (1952). The saturated 1,4-diketone (7.9 g, 0.02 mol) was suspended in 80 mL of AC2O and the mixture was heated to reflux. Concentrated H2SO4 (4-5 drops) was added and refluxing was continued for 5 min. The solution was poured into water-ice (1 L), stirred well, and filtered: crude yield 7 g (93%). Recrystallization from acetic acid gave 5.6 g (75%), mp 198°-199° C. (lit. (R. E. Lutz and W. M. Eisner, J. Am. Chem. Soc. 56, 2698 (1934)) mp 200°-201° C.).

reactant | bromobenzene | BrC1=CC=CC=C1 | C6H5Br
reactant | fumaryl chloride | C(\C=C\C(=O)Cl)(=O)Cl | C4H2Cl2O2
reactant | ethylene | C=C | C2H4
catalyst | H2SO4 | 4-5 drops | OS(=O)(=O)O | H2O4S
catalyst | Zn HOAc | [Zn].CC(=O)O
product | 2,5-Bis(p-bromophenyl) furan | BrC1=CC=C(C=C1)C=1OC(=CC1)C1=CC=C(C=C1)Br | C16H10Br2O
